US08440658B2
To a solution of 1-((S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-ylamino)-3-phenylhex-5-en-3-ol (550 mg, 1.41 mmol) and Et3N (1.4 g, 14.1 mmol) in CH2Cl2 (5 mL) was added triphosgene (138 mg, 0.46 mmol) at 0° C. The formed mixture was heated to reflux overnight. The mixture was washed with water. The organic phase was separated and concentrated to give the crude product which was purified by TLC to afford 6-allyl-3-((2S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-yl)-6-phenyl-1,3-oxazinan-2-one (100 mg, 17%). 1H NMR (CDCl3): 0.00 (s, 6H), 0.73 (s, 9H), 1.08 (s, 3H), 1.12 (d, 3H), 1.21 (s, 3H), 2.83 (q, 1H), 4.08 (brs, 1H).

reactant | 1-((S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-ylamino)-3-phenylhex-5-en-3-ol | 1.41 mmol, 550 mg | [Si](C)(C)(C(C)(C)C)OC([C@H](C)NCCC(CC=C)(O)C1=CC=CC=C1)(C)C | C23H41NO2Si
reactant | Et3N | 14.1 mmol, 1.4 g | CCN(CC)CC | C6H15N
reactant | triphosgene | 0.46 mmol, 138 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-allyl-3-((2S)-3-(tert-butyldimethylsilyloxy)-3-methylbutan-2-yl)-6-phenyl-1,3-oxazinan-2-one | 100 mg, 17% | C(C=C)C1(CCN(C(O1)=O)[C@@H](C)C(C)(C)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C24H39NO3Si
